US07569518B2
4.00 g of 5-(4-chlorophenyl)-6-methyl-4-(2,4,6-trifluorophenyl)-2H-pyridazin-3-one and 20 ml of phosphorus oxychloride were mixed and stirred at 110° C. for 1 hour. The reaction mixture was cooled down to room temperature and concentrated under reduced pressure. To the residue was added ethyl acetate and ice water, and was separated to two layer. The organic layer was washed sequentially with water and saturated brine, and dried over anhydrous sodium sulfate, then, concentrated under reduced pressure, to obtain 4.16 g of 3-chloro-5-(4-chlorophenyl)-6-methyl-4-(2,4,6-trifluorophenyl)pyridazine (hereinafter, referred to as compound (i) of the present invention).

reactant | 5-(4-chlorophenyl)-6-methyl-4-(2,4,6-trifluorophenyl)-2H-pyridazin-3-one | 4.00 g | ClC1=CC=C(C=C1)C1=C(C(NN=C1C)=O)C1=C(C=C(C=C1F)F)F | C17H10ClF3N2O
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-5-(4-chlorophenyl)-6-methyl-4-(2,4,6-trifluorophenyl)pyridazine | 4.16 g | ClC=1N=NC(=C(C1C1=C(C=C(C=C1F)F)F)C1=CC=C(C=C1)Cl)C | C17H9Cl2F3N2
